US05021418
Preparation of N-Phenyl-2-pyridinecarboxamide
To a solution of carbonyldiimidazole (8.10 g) in dry dimethylformamide (100 mL) under N2 atmosphere, was added the picolinic acid (15.0 g) portionwise, then stirred for 30 minutes. Aniline (10.93 mL) was added rapidly dropwise, then stirred for 18 hours at room temperature. The reaction mixture was poured into water (400 mL), basified with 2.5N NaOH (25 mL) and stirred for 30 minutes while solid precipitated. The solid was collected by vacuum filtration, washed with water, and dried in vacuo. This tan solid was recrystallized from ether/hexane (1/1) to afford 7.69 g (32.3%) of an off-white solid, m.p. 75°-77° C.

reactant | carbonyldiimidazole | 8.10 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | picolinic acid | 15.0 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | Aniline | 10.93 mL | NC1=CC=CC=C1 | C6H7N
reactant | NaOH | 2.5N, 25 mL | [OH-].[Na+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | 400 mL | O | H2O
product | N-Phenyl-2-pyridinecarboxamide | 7.69 g, 32.3% | C1(=CC=CC=C1)NC(=O)C1=NC=CC=C1 | C12H10N2O
